US09120792B2
A mixture of 1.09 g of 3-methyl-6-trifluoromethyl-1,3-dihydro-imidazo[4,5-b]pyridin-2-one, one drop of dimethylformamide and 10 g of phosphorus oxychloride was stirred at 100° C. for 3 hours. The cooled reaction mixture was poured to a saturated aqueous sodium bicarbonate solution, and the mixture was extracted twice with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resulting residue was applied to a silica gel column chromatography to obtain 0.61 g of 2-chloro-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine.

reactant | 3-methyl-6-trifluoromethyl-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | 1.09 g | CN1C(NC=2C1=NC=C(C2)C(F)(F)F)=O | C8H6F3N3O
reactant | phosphorus oxychloride | 10 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | 2-chloro-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.61 g | ClC1=NC=2C(=NC=C(C2)C(F)(F)F)N1C | C8H5ClF3N3
